US05250554
2-Butyl-1-[[2'-(N-triphenylmethyltetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole-7-carboxylic acid
A mixture of 2-butyl-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole-7-carboxylic acid (3.0 g), triphenylmethyl chloride (1.96 g) and triethylamine (1.0 ml) in CH2Cl2 (20 ml) was stirred at room temperature for 16 hours. The reaction solution was washed with H2O, dried over Na2SO4 and concentrated to dryness to give a solid residue. The residue was purified by column chromatography on silica gel to give a colorless powder (4.25 g, 91%), m.p. 120-123° C.

reactant | 2-butyl-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole-7-carboxylic acid | 3.0 g | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C(=CC=C2)C(=O)O | C26H24N6O2
reactant | triphenylmethyl chloride | 1.96 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | triethylamine | 1.0 ml | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | 2-Butyl-1-[[2'-(N-triphenylmethyltetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole-7-carboxylic acid | 4.25 g, 91% | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=CC=C2)C(=O)O | C45H38N6O2
